US06982274B2
1H-5-Indazolecarboxylic acid
To 867 mg of 1H-5-indazolecarbonitrile used in Production Example I-14-a were added 8 ml of glacial acetic acid, 2.5 ml of water and 2 ml of concentrated sulfuric acid, and the mixture was stirred at 110° C. for 10 hours. After standing to cool, the mixture was added with 50 ml of water, and the resulting crystals were collected by filtration and dried in vacuo, to give 911 mg of the title compound as white crystals.

reactant | 1H-5-indazolecarbonitrile | 867 mg | N1N=CC2=CC(=CC=C12)C#N | C8H5N3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 1H-5-Indazolecarboxylic acid | 911 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
